US07365197B2
A mixture of 3.5 g (8.6 mmol) of 3-amino-7-methoxy-6-(2-morpholin-4-yl-ethoxy)-naphthalene-2-carboxylic acid tert-butyl ester and 60 ml of formamide is heated at 178° C. for 2 hours, then cooled. To this is added 4:1 methylene chloride/methanol. The resulting solution is washed several times with brine, dried over anhydrous sodium sulfate and evaporated to yield an oil. The oil is purified by silica gel chromatography, utilizing a gradient of 99:1 to 88:12 methylene chloride/methanol to give sticky solid, which is triturated with ethyl acetate to yield 1.5 g of 7-methoxy-8-(2-morpholin-4-yl-ethoxy)-3H-benzo[g]quinazolin-4-one as a tan solid, mp 230-232° C.

reactant | 3-amino-7-methoxy-6-(2-morpholin-4-yl-ethoxy)-naphthalene-2-carboxylic acid tert-butyl ester | 8.6 mmol, 3.5 g | C(C)(C)(C)OC(=O)C1=CC2=CC(=C(C=C2C=C1N)OCCN1CCOCC1)OC | C22H30N2O5
reactant | formamide | 60 ml | C(=O)N | CH3NO
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 7-methoxy-8-(2-morpholin-4-yl-ethoxy)-3H-benzo[g]quinazolin-4-one | 1.5 g | COC=1C(=CC2=C(C=C3C(NC=NC3=C2)=O)C1)OCCN1CCOCC1 | C19H21N3O4
